* /home/abhash2205/eSim-Workspace/InMemDAC/InMemDAC.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: Thu 29 Sep 2022 09:28:38 PM IST

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
U4  Net-_U13-Pad1_ b3 Net-_U2-Pad2_ Net-_U2-Pad1_ adc_bridge_2		
U3  Net-_U2-Pad3_ Net-_SC1-Pad2_ dac_bridge_1		
v4  b3 GND pulse		
SC2  Net-_SC2-Pad1_ Net-_SC2-Pad2_ Net-_SC1-Pad1_ GND sky130_fd_pr__nfet_01v8_lvt		
SC1  Net-_SC1-Pad1_ Net-_SC1-Pad2_ Net-_SC1-Pad3_ GND sky130_fd_pr__nfet_01v8_lvt		
v3  Net-_SC1-Pad3_ GND DC		
v2  Net-_SC2-Pad2_ GND DC		
U8  Net-_U13-Pad1_ b2 Net-_U6-Pad2_ Net-_U6-Pad1_ adc_bridge_2		
U7  Net-_U6-Pad3_ Net-_SC3-Pad2_ dac_bridge_1		
v5  b2 GND pulse		
SC4  Net-_SC2-Pad1_ Net-_SC2-Pad2_ Net-_SC3-Pad1_ GND sky130_fd_pr__nfet_01v8_lvt		
SC3  Net-_SC3-Pad1_ Net-_SC3-Pad2_ Net-_SC1-Pad3_ GND sky130_fd_pr__nfet_01v8_lvt		
U13  Net-_U13-Pad1_ b1 Net-_U10-Pad2_ Net-_U10-Pad1_ adc_bridge_2		
U11  Net-_U10-Pad3_ Net-_SC5-Pad2_ dac_bridge_1		
v6  b1 GND pulse		
SC6  Net-_SC2-Pad1_ Net-_SC2-Pad2_ Net-_SC5-Pad1_ GND sky130_fd_pr__nfet_01v8_lvt		
SC5  Net-_SC5-Pad1_ Net-_SC5-Pad2_ Net-_SC1-Pad3_ GND sky130_fd_pr__nfet_01v8_lvt		
U16  Net-_U13-Pad1_ b0 Net-_U16-Pad3_ Net-_U16-Pad4_ adc_bridge_2		
U15  Net-_U15-Pad1_ Net-_SC7-Pad2_ dac_bridge_1		
v7  b0 GND pulse		
SC8  Net-_SC2-Pad1_ Net-_SC2-Pad2_ Net-_SC7-Pad1_ GND sky130_fd_pr__nfet_01v8_lvt		
SC7  Net-_SC7-Pad1_ Net-_SC7-Pad2_ Net-_SC1-Pad3_ GND sky130_fd_pr__nfet_01v8_lvt		
v1  Net-_U13-Pad1_ GND DC		
U5  b3 plot_v1		
U9  b2 plot_v1		
U14  b1 plot_v1		
U17  b0 plot_v1		
U12  Net-_SC2-Pad1_ GND plot_i2		
U1  ? ? ? abhash_6tsram		
U18  Net-_U16-Pad4_ Net-_U16-Pad3_ Net-_U15-Pad1_ abhash_6tsram		
U10  Net-_U10-Pad1_ Net-_U10-Pad2_ Net-_U10-Pad3_ abhash_6tsram		
U6  Net-_U6-Pad1_ Net-_U6-Pad2_ Net-_U6-Pad3_ abhash_6tsram		
U2  Net-_U2-Pad1_ Net-_U2-Pad2_ Net-_U2-Pad3_ abhash_6tsram		
scmode1  SKY130mode		

.end
