* /home/abhash2205/esim-workspace/inmemdac/inmemdac.cir

.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__r+c.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__pnp.model.spice"
.lib "/usr/share/local/sky130_fd_pr/models/sky130.lib.spice" tt
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__linear.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__inductors.model.spice"
* u4  net-_u13-pad1_ b3 net-_u2-pad2_ net-_u2-pad1_ adc_bridge_2
* u3  net-_u2-pad3_ net-_sc1-pad2_ dac_bridge_1
v4  b3 gnd pulse(0 1.8 8 0.01 0.01 8 16)
xsc2 net-_sc2-pad1_ net-_sc2-pad2_ net-_sc1-pad1_ gnd sky130_fd_pr__nfet_01v8_lvt W=8
xsc1 net-_sc1-pad1_ net-_sc1-pad2_ net-_sc1-pad3_ gnd sky130_fd_pr__nfet_01v8_lvt W=8
v3 net-_sc1-pad3_ gnd  dc 1
v2 net-_sc2-pad2_ gnd  dc 1.8
* u8  net-_u13-pad1_ b2 net-_u6-pad2_ net-_u6-pad1_ adc_bridge_2
* u7  net-_u6-pad3_ net-_sc3-pad2_ dac_bridge_1
v5  b2 gnd pulse(0 1.8 4 0.01 0.01 4 8)
xsc4 net-_sc2-pad1_ net-_sc2-pad2_ net-_sc3-pad1_ gnd sky130_fd_pr__nfet_01v8_lvt W=4
xsc3 net-_sc3-pad1_ net-_sc3-pad2_ net-_sc1-pad3_ gnd sky130_fd_pr__nfet_01v8_lvt W=4
* u13  net-_u13-pad1_ b1 net-_u10-pad2_ net-_u10-pad1_ adc_bridge_2
* u11  net-_u10-pad3_ net-_sc5-pad2_ dac_bridge_1
v6  b1 gnd pulse(0 1.8 2 0.01 0.01 2 4)
xsc6 net-_sc2-pad1_ net-_sc2-pad2_ net-_sc5-pad1_ gnd sky130_fd_pr__nfet_01v8_lvt W=2
xsc5 net-_sc5-pad1_ net-_sc5-pad2_ net-_sc1-pad3_ gnd sky130_fd_pr__nfet_01v8_lvt W=2
* u16  net-_u13-pad1_ b0 net-_u16-pad3_ net-_u16-pad4_ adc_bridge_2
* u15  net-_u15-pad1_ net-_sc7-pad2_ dac_bridge_1
v7  b0 gnd pulse(0 1.8 1 0.01 0.01 1 2)
xsc8 net-_sc2-pad1_ net-_sc2-pad2_ net-_sc7-pad1_ gnd sky130_fd_pr__nfet_01v8_lvt W=1
xsc7 net-_sc7-pad1_ net-_sc7-pad2_ net-_sc1-pad3_ gnd sky130_fd_pr__nfet_01v8_lvt W=1
v1 net-_u13-pad1_ gnd  dc 1.8
* u5  b3 plot_v1
* u9  b2 plot_v1
* u14  b1 plot_v1
* u17  b0 plot_v1
* u12  net-_sc2-pad1_ gnd plot_i2
* u1  ? ? ? abhash_6tsram
* u18  net-_u16-pad4_ net-_u16-pad3_ net-_u15-pad1_ abhash_6tsram
* u10  net-_u10-pad1_ net-_u10-pad2_ net-_u10-pad3_ abhash_6tsram
* u6  net-_u6-pad1_ net-_u6-pad2_ net-_u6-pad3_ abhash_6tsram
* u2  net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ abhash_6tsram
* s c m o d e
a1 [net-_u13-pad1_ b3 ] [net-_u2-pad2_ net-_u2-pad1_ ] u4
a2 [net-_u2-pad3_ ] [net-_sc1-pad2_ ] u3
a3 [net-_u13-pad1_ b2 ] [net-_u6-pad2_ net-_u6-pad1_ ] u8
a4 [net-_u6-pad3_ ] [net-_sc3-pad2_ ] u7
a5 [net-_u13-pad1_ b1 ] [net-_u10-pad2_ net-_u10-pad1_ ] u13
a6 [net-_u10-pad3_ ] [net-_sc5-pad2_ ] u11
a7 [net-_u13-pad1_ b0 ] [net-_u16-pad3_ net-_u16-pad4_ ] u16
a8 [net-_u15-pad1_ ] [net-_sc7-pad2_ ] u15
v_u12 net-_sc2-pad1_ gnd 0
a9 [? ] [? ] [? ] u1
a10 [net-_u16-pad4_ ] [net-_u16-pad3_ ] [net-_u15-pad1_ ] u18
a11 [net-_u10-pad1_ ] [net-_u10-pad2_ ] [net-_u10-pad3_ ] u10
a12 [net-_u6-pad1_ ] [net-_u6-pad2_ ] [net-_u6-pad3_ ] u6
a13 [net-_u2-pad1_ ] [net-_u2-pad2_ ] [net-_u2-pad3_ ] u2
* Schematic Name:                             adc_bridge_2, NgSpice Name: adc_bridge
.model u4 adc_bridge(in_low=0 in_high=1.8 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u3 dac_bridge(out_low=0 out_high=1.8 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             adc_bridge_2, NgSpice Name: adc_bridge
.model u8 adc_bridge(in_low=0 in_high=1.8 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u7 dac_bridge(out_low=0 out_high=1.8 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             adc_bridge_2, NgSpice Name: adc_bridge
.model u13 adc_bridge(in_low=0 in_high=1.8 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u11 dac_bridge(out_low=0 out_high=1.8 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             adc_bridge_2, NgSpice Name: adc_bridge
.model u16 adc_bridge(in_low=0 in_high=1.8 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u15 dac_bridge(out_low=0 out_high=1.8 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             abhash_6tsram, NgSpice Name: abhash_6tsram
.model u1 abhash_6tsram(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             abhash_6tsram, NgSpice Name: abhash_6tsram
.model u18 abhash_6tsram(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             abhash_6tsram, NgSpice Name: abhash_6tsram
.model u10 abhash_6tsram(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             abhash_6tsram, NgSpice Name: abhash_6tsram
.model u6 abhash_6tsram(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             abhash_6tsram, NgSpice Name: abhash_6tsram
.model u2 abhash_6tsram(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
.tran 0.01e-00 16e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(b3) v(b2)+6 v(b1)+12 v(b0)+18
plot i(v_u12)
.endc
.end
